### PR TITLE
[Merged by Bors] - feat(RingTheory): index of power of ideal

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Quotient/Index.lean [hunk 1]
```diff
@@ -0,0 +1,102 @@
...
+-/
+import Mathlib.Algebra.GeomSum
+import Mathlib.Data.Finsupp.Fintype
+import Mathlib.GroupTheory.Index
+import Mathlib.LinearAlgebra.DirectSum.Finsupp
+import Mathlib.LinearAlgebra.TensorProduct.Quotient
+import Mathlib.LinearAlgebra.TensorProduct.RightExactness
+import Mathlib.RingTheory.Finiteness.Cardinality
+import Mathlib.RingTheory.Finiteness.TensorProduct
+import Mathlib.RingTheory.Ideal.Quotient.Operations
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Ideal/Quotient/Index.lean:14]: Do we really need all of those? What does `#min_imports` say?

File: Mathlib/RingTheory/Ideal/Quotient/Index.lean [hunk 2]
```diff
@@ -0,0 +1,102 @@
...
+        (quotTensorEquivQuotSMul N I).symm
+  rw [Nat.card_congr e.toEquiv]
+  have : Module.Finite R N := Module.Finite.iff_fg.mpr hN
+  have : Finite ((R ⧸ I) ⊗[R] N) := Module.finite_of_finite (R ⧸ I)
+  exact Nat.card_pos.ne'
+
+open TensorProduct in
+lemma Submodule.index_smul_le [Finite (R ⧸ I)]
+    (s : Finset M) (hs : Submodule.span R s = N) :
+    (I • N).toAddSubgroup.index ≤ I.toAddSubgroup.index ^ s.card * N.toAddSubgroup.index := by
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Ideal/Quotient/Index.lean:58]: I assume you can't substitute `N` in practice?

File: Mathlib/RingTheory/Ideal/Quotient/Index.lean [hunk 3]
```diff
@@ -0,0 +1,102 @@
...
+  induction n with
+  | zero =>
+    simp only [pow_zero, Ideal.one_eq_top]
+    infer_instance
+  | succ n _ =>
+    exact Submodule.finite_quotient_smul (I ^ n) hI
+
+lemma Ideal.index_pow_le
+    (s : Finset R) (hs : Ideal.span s = I) [Finite (R ⧸ I)] (n) :
+    (I ^ n).toAddSubgroup.index ≤ I.toAddSubgroup.index ^ ∑ i in Finset.range n, s.card ^ i := by
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Ideal/Quotient/Index.lean:94]: Merge master and it'll complain 😉 
```suggestion
    (I ^ n).toAddSubgroup.index ≤ I.toAddSubgroup.index ^ ∑ i ∈ Finset.range n, s.card ^ i := by
```

File: Mathlib/RingTheory/Ideal/Quotient/Index.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/RingTheory/Ideal/Quotient/Index.lean:14]: Yes. I believe CI would complain otherwise.

File: Mathlib/RingTheory/Ideal/Quotient/Index.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/RingTheory/Ideal/Quotient/Index.lean:58]: I'm not sure what you meant by this?

Comment (YaelDillies) [reply Mathlib/RingTheory/Ideal/Quotient/Index.lean:58]: Why isn't this
```suggestion
    (s : Finset M) :
    (I • Submodule.span R s).toAddSubgroup.index
      ≤ I.toAddSubgroup.index ^ s.card * (Submodule.span R s).toAddSubgroup.index := by
```

Comment (erdOne) [reply Mathlib/RingTheory/Ideal/Quotient/Index.lean:58]: Because usually you have `N` around but not the set of generators so this would be used as `apply Submodule.index_smul_le (s := <some construction>)`

Comment (YaelDillies) [reply Mathlib/RingTheory/Ideal/Quotient/Index.lean:58]: Yeah okay that's what I thought. Can you leave a comment to this effect?

File: Mathlib/RingTheory/Ideal/Quotient/Index.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Ideal/Quotient/Index.lean:14]: Oh wow, we really do need them all

File: Mathlib/RingTheory/Ideal/Quotient/Index.lean [hunk 4]
```diff
@@ -0,0 +1,105 @@
...
+
+-/
+
+variable {R M : Type*} [CommRing R] [AddCommGroup M] [Module R M]
+variable (I : Ideal R) {N : Submodule R M}
+
+open TensorProduct in
+/-- Let `N` be a finite index f.g. `R`-submodule, and `I` be a finite index ideal.
+Then `I • N` also has finite index. -/
+lemma Submodule.finite_quotient_smul [Finite (R ⧸ I)] [Finite (M ⧸ N)] (hN : N.FG) :
```
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/RingTheory/Ideal/Quotient/Index.lean:35]: Because we are more likely to have these instance lying around rather than `I.toAddSubgroup.FiniteIndex`.

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
